US04115416
To a vigorously stirred suspension of 19.5 g of magnesium chips (which have been washed with chloroform and activated with iodine) in 800 ml of absolute tetrahydrofuran is added in increments a solution of 131 g of p-bromanisol in 200 ml of absolute tetrahydrofuran in such a way that it is possible to maintain gently the Crignard reaction. The reaction mixture is allowed to continue to react for 1 hour, cooled to 15° C and treated dropwise with 88 g of cyclooctanone. After the reaction mixture has been stirred for a further 5 hours, it is treated with ice and with saturated ammonium chloride solution. The whole mixture is extracted with ether, the ether layers are washed with water, dried over sodium sulphate and evaporated in vacuo. During distillation under a high vacuum, water is split off from the oily residue to thus yield the p-(1-cyclooctenyl)-anisol, which boils at 115°-118° C (0.05mm Hg).

reactant | magnesium | 19.5 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | p-bromanisol | 131 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | cyclooctanone | 88 g | C1(CCCCCCC1)=O | C8H14O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | p-(1-cyclooctenyl)-anisol | C1(=CCCCCCC1)C1=CC=C(C=C1)OC | C15H20O
